US07838543B2
Combine tert-butyl nitrite, (35 mL, 292 mmol, technical 90%) and copper (II) chloride (31.7 g, 236 mmol) in acetonitrile (400 mL) and warm to 65° C. under nitrogen for 1 hour. Slowly add 2-amino-6-nitrobenzthiazole (41.7 g, 214 mmol) over 15 min. Continue to stir at 65° C. for 30 min. Cool to room temperature, dilute with CH2Cl2, and add 0.1 N HCl to precipitate the product. Filter and dry in a vacuum oven overnight to afford 2-chloro-6-nitrobenzthiazole (35.1 g, 77%). 1H NMR (400 MHz, DMSO-d6): δ 9.18 (d, 1H, J=2.2 Hz), 8.37 (dd, 1H, J=9.0, 2.4 Hz), 8.18 (d, 1H, J=8.8 Hz).

reactant | tert-butyl nitrite | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-6-nitrobenzthiazole | 214 mmol, 41.7 g | NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
reactant | HCl | 0.1 N | Cl | ClH
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper (II) chloride | 236 mmol, 31.7 g | [Cu](Cl)Cl
product | 2-chloro-6-nitrobenzthiazole | 35.1 g, 77% | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
